US05451347
4-(Chloromethyl)benzyltri-n-butylammonium chloride (16).
A mixture of tri-n-butylamine (6 g, 32.2 mmol) and α,α'-dichloro-p-xylene (8.0 g, 46.0 mmol) in methanol (50 mL) was refluxed for 15 h after which time TLC examination showed completion of the reaction. Methanol was removed under reduced pressure to give an oily residue. The colorless oil was washed several times with toluene and hexane and then dried. The product obtained was used without further purification.

reactant | tri-n-butylamine | 32.2 mmol, 6 g | C(CCC)N(CCCC)CCCC | C12H27N
reactant | α,α'-dichloro-p-xylene | 46.0 mmol, 8.0 g | ClCC1=CC=C(C=C1)CCl | C8H8Cl2
solvent | methanol | 50 mL | CO | CH4O
product | 4-(Chloromethyl)benzyltri-n-butylammonium chloride | [Cl-].ClCC1=CC=C(C[N+](CCCC)(CCCC)CCCC)C=C1 | InChI=1S/C20H35ClN.ClH/c1-4-7-14-22(15-8-5-2,16-9-6-3)18-20-12-10-19(17-21)11-13-20;/h10-13H,4-9,14-18H2,1-3H3;1H/q+1;/p-1
